US07645752B2
Step 2: Preparation of 3-[3-(3-(phenylthio)-1H-indol-4-yl]propan-1-ol:
To a solution of 3-(1H-indol-4-yl)propan-1-ol (0.91 g, 5.19 mmol) and thiophenol (0.53 mL, 5.19 mmol) in absolute ethanol (30 mL) was added a solution of potassium iodide (0.862 g, 5.19 mmol) and iodine (1.318 g, 5.19 mmol) in ethanol (7.5 mL) and water (22.5 mL) over 5 minutes, and the reaction was then heated at 65° C. for 5.5 hours. The cooled reaction mixture was diluted with ethyl acetate (250 mL), washed with 5% aqueous Na2S2O3 solution (250 mL), water (250 mL) and brine (250 mL), dried (Na2SO4), filtered and concentrated in vacuo to afford an off-white solid. Purification by flash chromatography (25 to 75% ethyl acetate/hexane) afforded a white solid. The product was recrystallized from 3:1 v/v hexane:ethyl acetate (60 mL) to afford the title compound as a white crystalline solid (1.048 g, 71%). MS (ES+) m/z 284.1 (M+H).

reactant | 3-(1H-indol-4-yl)propan-1-ol | 5.19 mmol, 0.91 g | N1C=CC2=C(C=CC=C12)CCCO | C11H13NO
reactant | thiophenol | 5.19 mmol, 0.53 mL | C1(=CC=CC=C1)S | C6H6S
reactant | potassium iodide | 5.19 mmol, 0.862 g | [I-].[K+]
reactant | iodine | 5.19 mmol, 1.318 g | II | I2
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | ethanol | 7.5 mL | C(C)O | C2H6O
solvent | water | 22.5 mL | O | H2O
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | 3-(3-(phenylthio)-1H-indol-4-yl]propan-1-ol | 1.048 g, 71% | C1(=CC=CC=C1)SC1=CNC2=CC=CC(=C12)CCCO | C17H17NOS
